US04562195
A suspension of ±1H-cycloocta[b]pyrrole-9-acetic acid methyl ester, decahydro-2-oxo-, (3aα, 9β, 9aα)-; ±1H-cycloocta[b]pyrrole-9-acetic acid methyl ester, decahydro-2-oxo, (3aα, 9α, 9aα)-; 1H-cycloocta[b]pyrrole-9-acetic acid methyl ester, decahydro-2-oxo, (3 aα, 9β, 9aβ) - (3.0 g, 0.013 mol) in 2N NaOH (6.5 ml) is stirred until hydrolysis is complete. The basic solution is treated with 2N HCl (6.5 ml). The solution is cooled and the product is separated by filtration. After drying in vacuo ±1H-cycloocta[b]pyrrole-9-acetic acid, decahydro-2-oxo-, (3aα, 9β, 9aα)-; ±1H-cycloocta[b]pyrrole9-acetic acid, decahydro-2-oxo-, (3aα, 9α, 9aα)-; ±1H-cycloocta[b]pyrrole-9-acetic acid, decahydro-2-oxo(3aα, 9β, 9aβ)- are isolated as a crystalline solid.

reactant | 1H-cycloocta[b]pyrrole-9-acetic acid methyl ester | COC(CC1=CC=CC=CC2=C1NC=C2)=O | C13H13NO2
reactant | HCl | 2N, 6.5 ml | Cl | ClH
solvent | NaOH | 2N, 6.5 ml | [OH-].[Na+]
product | 1H-cycloocta[b]pyrrole-9-acetic acid | N1C2=C(C=C1)C=CC=CC=C2CC(=O)O | C12H11NO2
